US06448205B1
Precursor α: 2,3-Dichloro-5-methylthiopyridine
A solution of 50.6 g (0.3 mol) of 3-amino-5,6-dichloropyridine in 700 ml of methylene chloride was slowly added dropwise at 40° C. to a solution of 56.6 g (0.6 mol) of dimethyl disulfide and 46.7 g (0.45 mol) of tert-butyl nitrite in 320 ml of dry methylene chloride. The mixture was then stirred for 1 hour at 40° C. and subsequently for another approximately 15 hours at approximately 20° C., whereupon 500 ml of ice-water were added to the reaction mixture. The organic phase which was separated off was washed once with 1 N hydrochloric acid and once with water, dried over sodium sulfate and finally concentrated. After the crude product had been stirred with n-hexane, 21 g of a dark solid were obtained (purity 94% according to GC). After the hexane solution was concentrated, a further 21.3 g of product of value remained which had a purity of 77% (according to GC). Total yield: 62%; m.p.: 66-67° C.; 1H-NMR (in d6 dimethyl sulfoxide): δ [ppm]=2.6 (s, CH3); 8.1 and 8.3 (2×d, pyr H).

reactant | 3-amino-5,6-dichloropyridine | 0.3 mol, 50.6 g | NC=1C=NC(=C(C1)Cl)Cl | C5H4Cl2N2
reactant | dimethyl disulfide | 0.6 mol, 56.6 g | CSSC | C2H6S2
reactant | tert-butyl nitrite | 0.45 mol, 46.7 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 320 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-methylthiopyridine | 21 g, yield: 62% | ClC1=NC=C(C=C1Cl)SC | C6H5Cl2NS
